US09428452B2
Methyl 2-acetyl-5-(N-(4-ethylphenyl)-N-isobutylsulfamoyl)benzoate
A mixture of methyl 5-(N-(4-ethylphenyl)-N-isobutylsulfamoyl)-2-((trimethylsilyl)ethynyl)benzoate (320 mg, 0.678 mmol), mercuric sulphate (201 mg, 0.678 mmol), H2SO4 (1.357 mL, 1.357 mmol) and acetone (6 mL) was heated at reflux for 4 hours. The mixture was partitioned between ammonium chloride solution (10%, 20 mL) and dichloromethane (DCM) (2×25 mL) then organics separated, dried (MgSO4) and evaporated onto florisil. The crude material was purified by silica (Si) chromatography (0-100% dichloromethane-cyclohexane gradient) to give the title compound as a colourless gum, 110 mg. LCMS [LCMS1] Rt 1.33 min, m/z (ES+) 418 (M+H).

reactant | methyl 5-(N-(4-ethylphenyl)-N-isobutylsulfamoyl)-2-((trimethylsilyl)ethynyl)benzoate | 0.678 mmol, 320 mg | C(C)C1=CC=C(C=C1)N(S(=O)(=O)C=1C=CC(=C(C(=O)OC)C1)C#C[Si](C)(C)C)CC(C)C | C25H33NO4SSi
reactant | H2SO4 | 1.357 mmol, 1.357 mL | OS(=O)(=O)O | H2O4S
solvent | acetone | 6 mL | CC(=O)C | C3H6O
product | Methyl 2-acetyl-5-(N-(4-ethylphenyl)-N-isobutylsulfamoyl)benzoate | C(C)(=O)C1=C(C(=O)OC)C=C(C=C1)S(N(CC(C)C)C1=CC=C(C=C1)CC)(=O)=O | C22H27NO5S
